US04550105
In a mixture of 10 ml of tetrahydrofuran and 10 ml of water is dissolved 155 mg of sodium cis-3-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-4-(4-nitrobenzyloxycarbonyl)-2-oxoazetidine-1-sulfonate (syn-isomer). To the solution is added 145 mg of 10% palladium-on-carbon, and the mixture is subjected to catalytic reduction at ambient temperature under normal pressure with stirring. Three hours later, 10 ml of an aqueous solution of 25 mg of sodium hydrogen carbonate is added to the reaction mixture. The catalyst is removed by filtration, and the filtrate is washed with ethyl acetate, and concentrated under reduced pressure. The concentrate is purified by column chromatography on Amberlite XAD-II, followed by lyophilization to give cis-3-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-4-carboxy-1-sulfo-2-oxoazetidine.disodium salt (syn-isomer).

reactant | sodium cis-3-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-4-(4-nitrobenzyloxycarbonyl)-2-oxoazetidine-1-sulfonate | 155 mg | NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])S(=O)(=O)[O-])=O)=NOC.[Na+]
reactant | sodium hydrogen carbonate | 25 mg | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
catalyst | palladium-on-carbon | 145 mg | [Pd] | Pd
product | cis-3-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-4-carboxy-1-sulfo-2-oxoazetidine | NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1C(=O)O)S(=O)(=O)O)=O)=NOC | C10H11N5O8S2
